US05256675
A mixture of acetic anhydride (1.84 g) and formic acid (0.9 g) was heated at 50° C. for 0.5 hours with stirring. The solution was cooled at room temperature and to the solution was added the 2-formylamino-4-(4-aminophenylthiomethyl)thiazole (1.6 g). The mixture was stirred at room temperature for 6.5 hours and then the mixture was poured into ice-water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-formylamino-4-(4-formylaminophenylthiomethyl)thiazole (1.7 g, yield: 96.7%). mp: 195°-197° C. (dec.)

reactant | acetic anhydride | 1.84 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-formylamino-4-(4-aminophenylthiomethyl)thiazole | 1.6 g | C(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)N | C11H11N3OS2
solvent | formic acid | 0.9 g | C(=O)O | CH2O2
product | 2-formylamino-4-(4-formylaminophenylthiomethyl)thiazole | 1.7 g, yield: 96.7% | C(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)NC=O | C12H11N3O2S2
